US07754727B2
A. Cyclopropanecarboxylic acid tert-butyl ester
To a solution of tert-butanol (9.4 mL, 100 mmol) in 50 mL of anhydrous THF is added under nitrogen during several minutes n-butyl lithium (69 mL, 110 mmol, 1.6 M solution in hexane). After 30 min, the resulting solution is treated by the drop wise addition of a THF solution (40 mL) of cyclopropanecarbonyl chloride (10 mL, 110 mmol). The reaction mixture is further stirred at reflux for 1 h, cooled to 0° C. by an ice bath, and slowly hydrolyzed by the addition of water. The aqueous layer is extracted twice with ether and the combined organic extracts are dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue is purified by vacuum distillation (bp=70° C., 76 mmHg) to afford the title compound as a yellow oil.

reactant | tert-butanol | 100 mmol, 9.4 mL | C(C)(C)(C)O | C4H10O
reactant | n-butyl lithium | 110 mmol, 1.6 M, 69 mL | C(CCC)[Li]
reactant | cyclopropanecarbonyl chloride | 110 mmol, 10 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | water | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | Cyclopropanecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1CC1 | C8H14O2
